US04065620
7-AMINO-3-(2'-ethoxycarbonylvinyl)-3-cephem-4-carboxylic acid
A solution of 175 mg. of tert-butyl 7-amino-3-(2'-ethoxycarbonylvinyl)-3-cephem-4-carboxylate-p-toluenesulfonate in 20 ml. of 98-100 percent formic acid was stirred at room temperature for two hours. The excess formic acid was removed under reduced pressure and the residue was purged once with ethyl acetate and then taken up in ethyl acetate:water mixture. The pH of the mixture was adjusted to 8.0 with saturated sodium bicarbonate solution and the organic layer was separated and removed. The aqueous portion was cooled in an ice bath and the pH was adjusted to 3.5 with 5 percent hydrochloric acid. The precipitate which formed upon acid addition was collected, yielding 67 mg. of the title compound. It had a m.p. of 234°-237° C. (d), and the IR, UV [λmax. 324 mμ (ε = 14,800)] and elemental analysis were consistent with the assigned structure:

reactant | tert-butyl 7-amino-3-(2'-ethoxycarbonylvinyl)-3-cephem-4-carboxylate p-toluenesulfonate | NC1[C@@H]2N(C(=C(CS2)C=CC(=O)OCC)C(=O)OC(C)(C)C)C1=O.CC=1C=CC(=CC1)S(=O)(=O)O
solvent | formic acid | C(=O)O | CH2O2
product | 7-AMINO-3-(2'-ethoxycarbonylvinyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)C=CC(=O)OCC)C(=O)O)C1=O | C12H14N2O5S
